US07713994B2
4-{[(4′-Fluoro-2-hydroxy-biphenyl-4-ylmethyl)-amino]-methylene}-6-furan-2-yl-4H-isoquinoline-1,3-dione
Following the same procedure for the preparation of 4-{[(2-Hydroxy-biphenyl-4-ylmethyl)-amino]-methylene}-6-iodo-4H-isoquinoline-1,3-dione, the title compound is prepared from 6-Furan-2-yl-4-methoxymethylene-4H-isoquinoline-1,3-dione (40 mg, 0.15 mmol) and 4-Aminomethyl-4′-fluoro-biphenyl-2-ol (33 mg, 0.15 mmol) in 62% yield: MS (ESI): 453.2 (M−1)−1.

reactant | 4-{[(2-Hydroxy-biphenyl-4-ylmethyl)-amino]-methylene}-6-iodo-4H-isoquinoline-1,3-dione | OC1=C(C=CC(=C1)CNC=C1C(NC(C2=CC=C(C=C12)I)=O)=O)C1=CC=CC=C1 | C23H17IN2O3
reactant | 6-Furan-2-yl-4-methoxymethylene-4H-isoquinoline-1,3-dione | 0.15 mmol, 40 mg | O1C(=CC=C1)C=1C=C2C(C(NC(C2=CC1)=O)=O)=COC | C15H11NO4
reactant | 4-Aminomethyl-4′-fluoro-biphenyl-2-ol | 0.15 mmol, 33 mg | NCC=1C=C(C(=CC1)C1=CC=C(C=C1)F)O | C13H12FNO
product | 4-{[(4′-Fluoro-2-hydroxy-biphenyl-4-ylmethyl)-amino]-methylene}-6-furan-2-yl-4H-isoquinoline-1,3-dione | 62% yield | FC1=CC=C(C=C1)C1=C(C=C(C=C1)CNC=C1C(NC(C2=CC=C(C=C12)C=1OC=CC1)=O)=O)O | C27H19FN2O4
